US06066639
To a 100 mL 14/20 round bottom flask under a nitrogen atmosphere was charged 1.7 g (8.17 mmmol) of 2-bromo-4-thiazolecarboxylic acid in 17 mL of benzene, followed by the addition of 2.4 mL (33 mmol) of thionyl chloride, and a catalytic amount of dimethylformamide. The reaction was heated to reflux for 2 hours The volatiles were removed in vacuo, and this residue was then dissolved in 20 mL of methylene chloride and added dropwise to an ice-bath cooled mixture of 2.06 g (8.58 mmol) of L-glutamic acid diethyl ester, 2.39 mL (10.1 mmol) of triethylamine, and 10 mg of dimethylaminopyridine in 30 mL of methylene chloride. After the addition, the ice bath was removed and the reaction was stirred at room temperature for 2 hours The reaction was diluted with methylene chloride, washed with 0.5 N hydrochloric acid, water, 5% sodium bicarbonate, water, dried over sodium sulfate, and removed in vacuo. The crude residue was purified using silica gel flash chromatography eluting with 3:1 chloroform/ether to give 2.7 g (84%) of diethyl N-(2-bromo-4-thiazolylcarbonyl)-L-glutamate as a yellow oil. Rf =0.43 (3:1 chloroform/ether). 1H NMR (300 MHz, DMSO-d6) δ 1.14 (q, J=7.1 Hz, 6H), 1.98-2.18 (m, 2H), 2.35 (t, J=7.3 Hz, 2H), 3.97-4.11 (m, 4H), 4.37-4.50 (m, 1H), 8.28 (d, J=5.9 Hz, 1H), 8.73 (d, J=7.7 Hz, 1H)

reactant | 2-bromo-4-thiazolecarboxylic acid | 1.7 g | BrC=1SC=C(N1)C(=O)O | C4H2BrNO2S
reactant | thionyl chloride | 33 mmol, 2.4 mL | S(=O)(Cl)Cl | Cl2OS
reactant | L-glutamic acid diethyl ester | 8.58 mmol, 2.06 g | C(C)OC([C@@H](N)CCC(=O)OCC)=O | C9H17NO4
reactant | triethylamine | 10.1 mmol, 2.39 mL | C(C)N(CC)CC | C6H15N
solvent | benzene | 17 mL | C1=CC=CC=C1 | C6H6
solvent | methylene chloride | 30 mL | C(Cl)Cl | CH2Cl2
catalyst | dimethylaminopyridine | 10 mg | CN(C)C1=NC=CC=C1 | C7H10N2
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | diethyl N-(2-bromo-4-thiazolylcarbonyl)-L-glutamate | 2.7 g, 84% | BrC=1SC=C(N1)C(=O)N[C@@H](CCC(=O)OCC)C(=O)OCC | C13H17BrN2O5S
